US03931177
A mixture of powdered 6-(3-hydroxy-4-methylphenyl)-4,5-dihydro-3(2H)-pyridazinone (5.0 g, 0.024 mole), epichlorohydrin (19.3 ml, 0.24 mole), and piperidine (0.2 ml) was heated on a steam bath for 1 hour. Evaporation of the solution under reduced pressure gave an oil which was dissolved in a small volume of dichloromethane and stirred with dilute sodium hydroxide solution (15 ml). The organic phase was washed with water, dried, and evaporated to an oil which under reduced pressure gave a solid, 6.2 g, 98%. Trituration with ethanol-ether gave crude 6-[3-(2,3-epoxypropoxy)-4-methylphenyl]-4,5-dihydro-3(2H)-pyridazinone 4.81 g, 76%, m.p. 128°-132°C. Purification, by recrystallisation from ethanol, or by column chromatography (silica, chloroform) gave the pure epoxide, m.p. 140°-142.5°C.

reactant | 6-(3-hydroxy-4-methylphenyl)-4,5-dihydro-3(2H)-pyridazinone | 0.024 mole, 5.0 g | OC=1C=C(C=CC1C)C=1CCC(NN1)=O | C11H12N2O2
reactant | epichlorohydrin | 0.24 mole, 19.3 ml | C(Cl)C1CO1 | C3H5ClO
reactant | piperidine | 0.2 ml | N1CCCCC1 | C5H11N
reactant | sodium hydroxide | 15 ml | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-[3-(2,3-epoxypropoxy)-4-methylphenyl]-4,5-dihydro-3(2H)-pyridazinone | 4.81 g, 76% | O1C(COC=2C=C(C=CC2C)C=2CCC(NN2)=O)C1 | C14H16N2O3
